US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-3-{[({3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)amino]sulfonyl}benzamide
To a solution of 3-{[({3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)amino]sulfonyl}benzoic acid (0.086 g, 0.102 mmol) in THF (1 mL) was added 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine hydrochloride (0.042 g, 0.122 mmol), HBTU (0.048 g, 0.133 mmol), and TEA (0.036 mL, 0.255 mmol) and the reaction was stirred at room temperature for 18 h. The reaction mixture was concentrated on Glas-Col evaporator, purified using a Gilson HPLC (with 0.1% TFA), concentrated, basified with amino cartridge to afford 0.0458 g (59%) of the title compound. LC-MS m/z 764 (M+H)+.

reactant | 3-{[({3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)amino]sulfonyl}benzoic acid | 0.102 mmol, 0.086 g | CN1CCC(CC1)CC=1C=C(C=CC1)C1=CC(=CC=C1)CNS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C27H30N2O4S
reactant | 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine hydrochloride | 0.122 mmol, 0.042 g | Cl.NCC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCOCC2
reactant | HBTU | 0.133 mmol, 0.048 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-3-{[({3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)amino]sulfonyl}benzamide | 0.0458 g, 59% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(C2=CC(=CC=C2)S(=O)(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)CC2CCN(CC2)C)=O)CC | C43H53N7O4S
